US07169938B2
Methyl (3S)-3-hydroxy-3-(2-thienyl)propanoate
In a 1 l multinecked flask equipped with a sparging stirrer, reflux condenser and internal thermometer, an HCOOH/Et3N mixture (molar ratio 1:1) is prepared by gradually adding 41 ml of HCOOH dropwise within 20 min to 152 ml of Et3N with stirring and ice cooling. 190 g of methyl 2-oxo-3-(2-thienyl)propionate are added to this biphasic mixture, the homogeneous yellow solution is admixed with 0.1 l of dichloromethane and the entire mixture is degassed by passing through argon for 20 min. It is heated to 36° C. and the dark red catalyst solution is added all at once to the reaction mixture with vigorous stirring. Stirring is effected at 800 rpm while passing argon through the reaction mixture for 14 h.

reactant | HCOOH Et3N | C(=O)O.CCN(CC)CC
reactant | HCOOH | 41 ml | C(=O)O | CH2O2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | methyl 2-oxo-3-(2-thienyl)propionate | 190 g | O=C(C(=O)OC)CC=1SC=CC1 | C8H8O3S
solvent | dichloromethane | 0.1 l | ClCCl | CH2Cl2
product | Methyl (3S)-3-hydroxy-3-(2-thienyl)propanoate | O[C@@H](CC(=O)OC)C=1SC=CC1 | C8H10O3S
